resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.987576
R2 0 n2 0.993508
R3 0 n4 0.980624
R4 n1 n3 1.005638
R5 n1 n5 0.996844
R6 n2 n3 0.996365
R7 n2 n6 0.986026
R8 n3 n7 0.989069
R9 n4 n5 11.965407
R10 n4 n6 0.999572
R11 n5 n7 0.05763
R12 n6 n7 1.001781
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
